US08258130B2
A suspension of NaH (1.02 g, 25.5 mmol, 60% in mineral oil) in DMF (25 mL) at 0° C. is treated with 2-(5-fluoro-1H-indol-3-yl)-2-methyl-propionic acid methyl ester (400 mg, 1.7 mmol) and stirred at 0° C. for 0.5 h. The mixture is treated with HOSA (960 mg, 8.5 mmol) portion wise and warmed to rt over 2 h. The mixture is then poured over ice, filtered through a pad of Celite, and extracted with EtOAc (3×100 mL). The combined organic layer is dried (Na2SO4), filtered and concentrated in vacuo to afford 2-(1-amino-5-fluoro-1H-indol-3-yl)-2-methyl-propionic acid methyl ester, which is used in the next step without further purification.

reactant | NaH | 25.5 mmol, 1.02 g | [H-].[Na+]
reactant | 2-(5-fluoro-1H-indol-3-yl)-2-methyl-propionic acid methyl ester | 1.7 mmol, 400 mg | COC(C(C)(C)C1=CNC2=CC=C(C=C12)F)=O | C13H14FNO2
reactant | DMF | 25 mL | CN(C)C=O | C3H7NO
product | 2-(1-amino-5-fluoro-1H-indol-3-yl)-2-methyl-propionic acid methyl ester | COC(C(C)(C)C1=CN(C2=CC=C(C=C12)F)N)=O | C13H15FN2O2
